US06583135B2
tert-Butyl 6-(1H-benzimidazol-2-ylmethyl)-10-bromo-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (0.105 g, 0.212 mmol) was dissolved in CH2Cl2 (5 mL) and trifluoroacetic acid (2.0 mL, 2.96 g, 26.0 mmol, 122 equiv.) was added. This mixture was stirred at rt in a capped vessel for 2.5 h. The reaction mixture was concentrated to dryness. The residue was taken up in EtOAc (2 mL), and 1M HCl in Et2O was added. The hydrochloride salt was collected by filtration and dried under vacuum. 6-(1H-benzimidazol-2-ylmethyl)-10-bromo-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole hydrochloride (0.943 g) was produced in quantitative yield. 1H NMR (300 MHz, DMF) δ 3.61-3.70, 3.83-3.86, 6.12, 7.06, 7.31, 7.36-7.42, 7.66-7.74, 7.74; 1H NMR (300 MHz, CD3OD) δ 3.33-3.36, 3.54-3.59, 3.83-3.86, 6.04, 7.09, 7.35, 7.41, 7.54-7.57, 7.71-7.74; MS (ESI+) for C20H19BrN4 m/z 395, 396.9 (M+H)+.

reactant | tert-Butyl 6-(1H-benzimidazol-2-ylmethyl)-10-bromo-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.212 mmol, 0.105 g | N1C(=NC2=C1C=CC=C2)CN2C1=C(C=3C(=CC=CC23)Br)CCN(CC1)C(=O)OC(C)(C)C | C25H27BrN4O2
reactant | trifluoroacetic acid | 26.0 mmol, 2.0 mL, 2.96 g, 122 equiv. | FC(C(=O)O)(F)F | C2HF3O2
reactant | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 6-(1H-benzimidazol-2-ylmethyl)-10-bromo-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole hydrochloride | 0.943 g, quantitative yield | Cl.N1C(=NC2=C1C=CC=C2)CN2C1=C(C=3C(=CC=CC23)Br)CCNCC1 | InChI=1S/C20H19BrN4.ClH/c21-14-4-3-7-18-20(14)13-8-10-22-11-9-17(13)25(18)12-19-23-15-5-1-2-6-16(15)24-19;/h1-7,22H,8-12H2,(H,23,24);1H
